US04309435
A mixture of 1-benzoyl-3-[2-(2-guanidinothiazol-4-ylmethylthio)ethyl]thiourea (0.394 g), histamine dihydrochloride (0.276 g), triethylamine (0.20 g), silver nitrate (0.204 g) and dimethyl formamide (20 ml) was stirred at room temperature overnight. After filtration the solution was evaporated to dryness and the residue purified by preparative thin layer chromatography (Merck 60F-254 plates developed with ethyl acetate/ethanol/ammonia (s.g. 0.88) 6:1:1 v/v/v). Isolation of the main band (RF 0.3) gave an oil which crystallized on trituration with acetone to give 1-benzoyl-2-[2-(2-guanidinothiazol-4-ylmethylthio)ethyl]-3-[2-(imidazol-4-yl)ethyl]guanidine, decomposing at 147°-150° after softening at 115°-117°.

reactant | 1-benzoyl-3-[2-(2-guanidinothiazol-4-ylmethylthio)ethyl]thiourea | 0.394 g | C(C1=CC=CC=C1)(=O)NC(=S)NCCSCC=1N=C(SC1)NC(=N)N | C15H18N6OS3
reactant | histamine dihydrochloride | 0.276 g | Cl.Cl.NCCC1=CNC=N1
reactant | triethylamine | 0.20 g | C(C)N(CC)CC | C6H15N
catalyst | silver nitrate | 0.204 g | [N+](=O)([O-])[O-].[Ag+]
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-benzoyl-2-[2-(2-guanidinothiazol-4-ylmethylthio)ethyl]-3-[2-(imidazol-4-yl)ethyl]guanidine | C(C1=CC=CC=C1)(=O)NC(=NCCSCC=1N=C(SC1)NC(=N)N)NCCC=1N=CNC1 | C20H25N9OS2
